US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 25 mg, 0.058 mmol), 1-(2-aminoethyl)imidazolidin-2-one (22.46 mg, 0.087 mmol), 4-methylmorpholine (23.45 mg, 0.232 mmol), and HATU (28.7 mg, 0.075 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 45-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-N-(2-(2-oxoimidazolidin-1-yl)ethyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (13.2 mg, 0.024 mmol, 42.0% yield): LCMS=543.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.11-8.23 (2 H, m), 7.54-7.73 (7 H, m), 5.11 (1 H, s), 3.32-3.49 (6 H, m), 3.21-3.29 (2 H, m); HPLC peak RT=2.4 min (Method E).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.058 mmol, 25 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 1-(2-aminoethyl)imidazolidin-2-one | 0.087 mmol, 22.46 mg | NCCN1C(NCC1)=O | C5H11N3O
reactant | 4-methylmorpholine | 0.232 mmol, 23.45 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.075 mmol, 28.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-(2-(2-oxoimidazolidin-1-yl)ethyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.024 mmol, 13.2 mg, 42.0% yield | OC(C(=O)NCCN1C(NCC1)=O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C25H21F3N6O5
